US05780437
[2-[2-(3,5-dimethylphenyl)-5-(morpholine-4-carbonyl) -1H-Indol-3-yl]ethyl]-(4-pyridin-4-ylbutyl)carbamic acid benzyl ester
A mixture of 100 mg (0.163 mnmol) of 3-[2-[benzyloxycarbonyl-[4-(pyridin-4-yl)butyl]amino]ethyl]-2-(3,5 -dimethylphenyl)-1H-indole-5-carboxylic acid hydrochloride 101.7 mg (0.196 mmol) of PyBOP reagent, 0.085 mL (85.2 mg, 0.978 mmol) of morpholine, and 1 mL of dry methylene chloride was stirred under nitrogen at room temperature in a stoppered flask. After 5 days, the solution was partitioned between ethyl acetate and saturated aqueous sodium bicarbonate solution. The organic phase was dried over sodium sulfate, filtered, and concentrated in vacuo. Purification of the crude product by flash chromatography on silica gel (gradient elution with 1-4% MeOH in CH2 Cl2) afforded a quantitative yield of the title compound as a yellow gum; homogeneous by TLC in 95:5 CH2Cl2 --MeOH. 500 MHz 1H NMR (CDCl3) was complex, owing to rotamners, but was consistent with the assigned structure. Mass spectrum (ESI): m/e=645.6 (M+H).

reactant | 3-[2-[benzyloxycarbonyl-[4-(pyridin-4-yl)butyl]amino]ethyl]-2-(3,5 -dimethylphenyl)-1H-indole-5-carboxylic acid hydrochloride | 0.196 mmol, 100 mg | Cl.C(C1=CC=CC=C1)OC(=O)N(CCC1=C(NC2=CC=C(C=C12)C(=O)O)C1=CC(=CC(=C1)C)C)CCCCC1=CC=NC=C1
reactant | PyBOP | C1CCN(C1)[P+](N2CCCC2)(N3CCCC3)ON4C5=C(C=CC=C5)N=N4.F[P-](F)(F)(F)(F)F
reactant | morpholine | 0.978 mmol, 0.085 mL, 85.2 mg | N1CCOCC1 | C4H9NO
solvent | methylene chloride | 1 mL | C(Cl)Cl | CH2Cl2
product | [2-[2-(3,5-dimethylphenyl)-5-(morpholine-4-carbonyl) -1H-Indol-3-yl]ethyl]-(4-pyridin-4-ylbutyl)carbamic acid benzyl ester | quantitative yield | C(C1=CC=CC=C1)OC(N(CCCCC1=CC=NC=C1)CCC1=C(NC2=CC=C(C=C12)C(=O)N1CCOCC1)C1=CC(=CC(=C1)C)C)=O | C40H44N4O4
